US06645971B1
Preparation of 1-Butyl-3-[1-(Cyclohexylmethyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 100 mg (0.25 mmol) of 3-[1-(cyclohexylmethyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 2 ml of DMF, 22 mg (0.55 mmol) of sodium hydride (60%) were added at room temperature and stirred at about 60° C. for one hour. After allowing the reaction mixture to stand cool, a solution of 69 mg (0.38 mmol) of 1-iodobutane in 1 ml of DMF was added thereto at room temperature and stirred at about 60° C. for 2 hours. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the obtained residue was purified by silica gel column chromatography (chloroform—10% methanol/chloroform) to give 88 mg (0.19 mmol) of the title compound as colorless oil.

reactant | 3-[1-(cyclohexylmethyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.25 mmol, 100 mg | C1(CCCCC1)CN1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C26H33N3O
reactant | sodium hydride | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | 1-iodobutane | 0.38 mmol, 69 mg | ICCCC | C4H9I
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-Butyl-3-[1-(Cyclohexylmethyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.19 mmol, 88 mg | C(CCC)N1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1CCCCC1)=O | C30H41N3O
